US04559354
Solutions of 5.0 g of crude 1,5-dimethyl-2-[3-(2,3-epoxypropoxy)-phenyl]-pyrrole in 15 ml of isopropanol and of 3.0 g of 5-(2-aminoethoxy)-salicylamide in 30 ml of isopropanol are combined and boiled under reflux for 2.5 hours. A portion of the precipitated reaction product is dissolved by the addition of 50 ml of methanol. The filtered solution is evaporated to dryness and the residue is recrystallised twice from ethyl acetate, yielding 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[3-(1,5-dimethylpyrrol-2-yl)-phenoxy]-2-propanol having a melting point of 108°-112°.

reactant | 1,5-dimethyl-2-[3-(2,3-epoxypropoxy)-phenyl]-pyrrole | 5.0 g | CN1C(=CC=C1C)C1=CC(=CC=C1)OCC1CO1 | C15H17NO2
reactant | 5-(2-aminoethoxy)-salicylamide | 3.0 g | NCCOC1=CC=C(C(C(=O)N)=C1)O | C9H12N2O3
reactant | methanol | 50 ml | CO | CH4O
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[3-(1,5-dimethylpyrrol-2-yl)-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC(=CC=C2)C=2N(C(=CC2)C)C)O)C=CC1O | C24H29N3O5
